US08445490B2
To a solution of 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (200 mg), trans-4-amino-1-Boc-pyrrolidine-3-carboxylic acid (72.6 mg) and O-benzotriazol-1-yl-N,N,N′,N′-tetra-methyluronium tetrafluoroborate (121 mg) was added iPr2NEt (0.22 mL). The mixture was stirred at room temperature for 4 hours. The mixture was purified by preparative HPLC to give trans-1-(tert-butoxycarbonyl)-4-(4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)pyrrolidine-3-carboxylic acid (32 mg).

reactant | 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 200 mg | C(C)(C)(C)OC(=O)NCCCCCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C30H37F3N6O6
reactant | trans-4-amino-1-Boc-pyrrolidine-3-carboxylic acid | 72.6 mg | N[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)O | C10H18N2O4
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetra-methyluronium tetrafluoroborate | 121 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | iPr2NEt | 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
product | trans-1-(tert-butoxycarbonyl)-4-(4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)pyrrolidine-3-carboxylic acid | 32 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)NC(C1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC1=CC=C(C=C1)OCCCCCCNC(=O)OC(C)(C)C)OCC(F)(F)F)=O)C(=O)O | C40H53F3N8O9
